US06962935B2
Part A. Preparation of 3-fluoro-2′-methylthio-[1,1′]-biphenylamine.
A benzene solution (100 mL) of 2-methylthiophenylboronic acid (2.07 g, 12.3 mmol); 4-bromo-2-fluoro aniline (1.06 g, 5.6 mmol); aq. Na2CO3 (12.5 mL, 2 M, 25 mmol); and tetra n-butyl ammonium bromide (90 mg, 0.3 mmol) was purged with vacuum and Ar. Bis(triphenylphosphine)palladium (II) chloride (195 mg, 0.3 mmol) was added, and the reaction was refluxed 10 h. After cooling, the reaction was diluted with EtOAc and H2O, the layers were separated, the organic was dried over Na2SO4, filtered, and evaporated. The crude product was chromatographed on silica gel (10% EtOAc/hexanes) to yield the desired product (1.05 g, 81%). 1H NMR (CDCl3) δ: 7.29 (m, 2H); 7.18 (m, 2H); 7.09 (dd, 1H, J=11.7, J′=1.8); 7.01 (dd, 1H, J=8.0, J′=1.4); 6.82 (t, 1H, J=9.2); 3.79 (bs, 2H); 2.38 (s, 3H).

reactant | benzene | 100 mL | C1=CC=CC=C1 | C6H6
reactant | 2-methylthiophenylboronic acid | 12.3 mmol, 2.07 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | 4-bromo-2-fluoro aniline | 5.6 mmol, 1.06 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | Na2CO3 | 25 mmol, 2 M, 12.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetra n-butyl ammonium bromide | 0.3 mmol, 90 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Bis(triphenylphosphine)palladium (II) chloride | 0.3 mmol, 195 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-fluoro-2′-methylthio-[1,1′]-biphenylamine | 1.05 g, 81% | FC1=C(C(=CC=C1)C1=C(C=CC=C1)SC)N | C13H12FNS
